US06656917B1
Methyl (2S,3S)-4-acetoxy-2,3-epoxybutanoate.
The general procedure of Manchand, et. al. (Manchand, et al., 1988) is employed. Methyl 2,4-dibromo-2,4-dideoxy-L-threonate (131 g, 474 mmol) is added to a stirred solution of potassium acetate (102 g, 1.04 mol) and potassium iodide (3.94 g, 23.8 mmol) in dimethyl formamide (500 mL). This mixture is stirred under nitrogen gas at 50-55° C. for 4 hours and overnight at room temperature. The reaction mixture is diluted with ethyl acetate (1 L) and filtered. The filter cake is washed with ethyl acetate (250 mL). The combined ethyl acetate portion is washed with saturated sodium bicarbonate solution (500 mL) and saturated brine (2×500 mL) and dried over magnesium sulfate. The solvent is removed to yield the title compound as a dark oil (82.0 g, 99% theoretical yield).

reactant | Methyl 2,4-dibromo-2,4-dideoxy-L-threonate | 474 mmol, 131 g | Br[C@@H](C(=O)OC)[C@@H](O)CBr | C5H8Br2O3
reactant | potassium acetate | 1.04 mol, 102 g | C(C)(=O)[O-].[K+]
solvent | dimethyl formamide | 500 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
catalyst | potassium iodide | 23.8 mmol, 3.94 g | [I-].[K+]
product | Methyl (2S,3S)-4-acetoxy-2,3-epoxybutanoate | 82.0 g, 99% | C(C)(=O)OC[C@H]1[C@@H](C(=O)OC)O1 | C7H10O5
